US07307075B2
4-[3-(4-Butylpiperidin-1-yl)propyl]-6-methoxy-4H-benzo[1,4]oxazin-3-one (81MF2249)
A 7 mL vial was charged with 4-(3-chloropropyl)-4H-benzo[1,4]oxazin-3-one (1.0 equiv), K2CO3 (2.0 equiv), NaI (2.0 equiv) and 4-Butylpiperidine (1.05 equiv) in 5 mL dry MeCN and shaken at 60° C. for 48 h. The reaction mixture was evaporated to dryness, diluted with 10 mL H2O, extracted into CH2Cl2 (3×13 mL), and filtered through a PTFF Whatman filter. The combined organic layers were evaporated to dryness and purified by CC (Heptane/EtOAc or CH2Cl2/MeOH) or prep TLC (Heptane/EtOAc or CH2Cl2/MeOH).

reactant | 4-(3-chloropropyl)-4H-benzo[1,4]oxazin-3-one | 1.0 equiv | ClCCCN1C(COC2=C1C=CC=C2)=O | C11H12ClNO2
reactant | K2CO3 | 2.0 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 2.0 equiv | [Na+].[I-]
reactant | 4-Butylpiperidine | 1.05 equiv | C(CCC)C1CCNCC1 | C9H19N
solvent | MeCN | 5 mL | CC#N | C2H3N
product | 4-[3-(4-Butylpiperidin-1-yl)propyl]-6-methoxy-4H-benzo[1,4]oxazin-3-one | C(CCC)C1CCN(CC1)CCCN1C(COC2=C1C=C(C=C2)OC)=O | C21H32N2O3
